US05514680
Preparation of 6-Bromo-5-nitro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione
To a solution of 6-bromo-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione (40 mg, 0.13 mmol) in concentrated H2SO4 (0.5 mL) at 25° C. was added KNO3 (16 mg, 0.15 mmol, Baker). The mixture was stirred at 25° C. for 30 h and poured into ice water (2 g). The yellow precipitate was collected by filtration and the solid was dissolved in 1N KOH (10 mL). It was filtered and the filtrate was acidified to pH=5 with 4N HCl (2.5 mL) to give a yellow precipitate. The precipitate was collected and dried in the air at 50° C. for 4 h, affording the title compound (34 mg, 74%) as a yellow powder. Recrystallization from DMSO/H2O gave 18 mg (40%) of the title compound as yellow needles. Mp: 333°-5° C. (dec.); IR (KBr, cm-1): 3428, 3308, 3251, 3207, 1761, 1698, 1537, 600. 1H NMR (DMSO-d6): δ12.601 (br, 1H), 12.341 (s, 1H), 7.606 (s, 1H).

reactant | 6-bromo-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 0.13 mmol, 40 mg | BrC=1C=C2NC(C(NC2=CC1C(F)(F)F)=O)=O | C9H4BrF3N2O2
reactant | KNO3 | 0.15 mmol, 16 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 0.5 mL | OS(=O)(=O)O | H2O4S
product | 6-Bromo-5-nitro-7-trifluoromethyl-1,4-dihydro-2,3-quinoxalinedione | 34 mg, 74% | BrC=1C(=C2NC(C(NC2=CC1C(F)(F)F)=O)=O)[N+](=O)[O-] | C9H3BrF3N3O4
